US07943795B2
B. 7-Hydroxynaphthalene-2-carboxylic acid methyl ester
Treat a mixture containing trifluoromethanesulfonic acid 7-(1-ethyl-1-hydroxypropyl)naphthalen-2-yl ester (0.41 g, 14.1 mmol), Pd(OAc)2 (0.30 g, 1.38 mmol), bis-(diphenylphosphino)ferrocene (0.705 g, 1.27 mmol), Et3N (10.2 mL, 73.2 mmol), in MeOH (12 mL) and DMSO (18 mL) with carbon monoxide at 100 psi at 80° C. for 4 h. Pour the reaction mixture into ether (300 mL) and wash with brine (5×100 mL). Add EtOAc (250 mL), wash the organic layer with brine, dry over Na2SO4, and filter. Concentrate the filtrate to give the title compound as a tan solid (2.84 g, quant). 1H NMR (400 MHz, CDCl3) δ 3.98 (s, 3H), 7.23-7.29 (m, 2H), 7.78 (t, J=8.3 Hz, 2H), 7.88-7.90 (m, 1H), 8.43 (d, J=0.88 Hz, 1H).

reactant | trifluoromethanesulfonic acid 7-(1-ethyl-1-hydroxypropyl)naphthalen-2-yl ester | 14.1 mmol, 0.41 g | C(C)C(CC)(O)C1=CC=C2C=CC(=CC2=C1)OS(=O)(=O)C(F)(F)F | C16H17F3O4S
reactant | Et3N | 73.2 mmol, 10.2 mL | CCN(CC)CC | C6H15N
reactant | DMSO | 18 mL | CS(=O)C | C2H6OS
reactant | carbon monoxide | [C]=O | CO
reactant | MeOH | 12 mL | CO | CH4O
catalyst | Pd(OAc)2 | 1.38 mmol, 0.30 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | bis-(diphenylphosphino)ferrocene | 1.27 mmol, 0.705 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | ether | 300 mL | CCOCC | C4H10O
product | 7-Hydroxynaphthalene-2-carboxylic acid methyl ester | 2.84 g | COC(=O)C1=CC2=CC(=CC=C2C=C1)O | C12H10O3
